US07964643B2
4′-Methylbiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-260)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 4-methylphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 20.8, 22.6, 28.9, 32.0, 42.6, 60.5, 126.9, 127.0, 127.3, 129.7, 135.7, 138.0, 139.0 and 143.7.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 4-methylphenyl boronic acid | CC1=CC=C(C=C1)B(O)O | C7H9BO2
product | 4′-Methylbiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C18H23NO3S
